US07807709B2
G. (3S*,4R*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester
To a solution of (3S*,4R*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.41 g, 2.63 mmol) in MeOH (25 mL) cooled at 0° C., 662 mg of LiOH.H2O is added. The reaction mixture is stirred overnight. The mixture is taken up in CH2Cl2, an aqueous HCl (5%) solution is added and the resulting mixture is extracted 3 times with CH2Cl2, dried over Na2SO4, filtered and concentrated. The crude material is used in the next step without purification. TLC, Rf (CH2Cl2/MeOH 95:5)=0.15. MS (LC-MS): 409.0 [M-H-Boc]−; tR (HPLC, C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mumin): 4.96 min.

reactant | (3S*,4R*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 2.63 mmol, 1.41 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(=O)OC(C)(C)C | C28H44N2O8
reactant | LiOH.H2O | 662 mg | O[Li].O
reactant | HCl | Cl | ClH
solvent | MeOH | 25 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3S*,4R*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(=O)O | C26H40N2O8
